*//////////////////////////////////////////////////////////////////////
* (C) National Semiconductor, Inc.
* Models developed and under copyright by:
* National Semiconductor, Inc.  

*/////////////////////////////////////////////////////////////////////
* Legal Notice: This material is intended for free software support.
* The file may be copied, and distributed; however, reselling the 
*  material is illegal

*////////////////////////////////////////////////////////////////////
* For ordering or technical information on these models, contact:
* National Semiconductor's Customer Response Center
*                 7:00 A.M.--7:00 P.M.  U.S. Central Time
*                                (800) 272-9959
* For Applications support, contact the Internet address:
*  Appshelp@galaxy.nsc.com

* ///////////////////////////////////////////////////////////////////
* User Notes about what the CFA models can do:
*Supply voltage dependant input offset voltage (Vos). 
*Temperature dependant input offset voltage (TCVos). 
*Supply voltage dependant input bias current (Ib+ & Ib- PSR). 
*Temperature dependant input bias current (TCIb+ & TCIb-). 
*Input voltage dependant input bias current (Ib- CMRR). 
*Non-inverting input resistance.  
*Asymmetrical output swing. 
*Output short circuit current (Isc). 
*Supply voltage dependant supply current. 
*Quiescent and dynamic supply current. 
*Input voltage dependant input slew rate. 
*Input voltage dependant output slew rate. 
*Multiple poles and zeros in open-loop transimpedance (Zt). 
*Supply voltage dependant input buffer impedance. 
*Supply voltage dependant open-loop voltage gain (Avol). 
*Feedback resistance dependant bandwidth. 
*Accurate small-signal pulse response. 
*Large-signal pulse response. 
*DC and AC common mode rejection ratio (CMRR). 
*DC and AC power supply rejection ratio (PSRR). 
*White and 1/f voltage noise (en). 
*White and 1/f current noise (in). 
*********************Modeled but not tested*****************
*Asymmetrical output slew rate. 
*Input common mode input range. 
*Supply voltage dependant input slew rate. 
***************************Not modeled**********************
*Third-order large signal effects.
*Self heating effects.

*//////////////////////////////////////////////////////////
*LM6181 CURRENT FEEDBACK OP-AMP MACRO-MODEL
*//////////////////////////////////////////////////////////
*
* connections:      non-inverting input
*                   |   inverting input
*                   |   |   positive power supply
*                   |   |   |   negative power supply
*                   |   |   |   |   output
*                   |   |   |   |   |
*                   |   |   |   |   |
.SUBCKT LM6181/NS   1   2  99  50  40
*
*Features:                          (TYP.)
*High bandwidth =                   100MHz
*High slew rate =                 2000V/uS
*Current Feedback Topology
*NOTE:  Due to the addition of PSRR effects, model must be operated
*       with symetrical supply voltages.  To avoid this limitation 
*       and disable the PSRR effects, see EOS below.
*
****************INPUT STAGE************** 
*
GI1 99  5 POLY(1) 99 50 243.75U 2.708E-6
GI2  4 50 POLY(1) 99 50 243.75U 2.708E-6
FI1 99  5 VA3 100
FI2  4 50 VA4 100
Q1  50  3 5 QPN
Q2  99  3 4 QNN 
GR1  5  6 5 6 2.38E-4
*^4.2K noiseless resistor
C1   6 99 .468P
GR2  4  7 4 7 2.38E-4
*^4.2K noiseless resistor
C2   7 50 .468P
GR3 99  8 99 8 1.58E-3
*^633ohm noiseless resistor
V1  99 10 .3
RE1 10 30 130
D1  30  8 DX
GR4 50  9 50 9 1.58E-3
*^633ohm noiseless resistor
V2  11 50 .3
RE2 11 31 150
D2   9 31 DX
Q3   8  6 2 QNI
Q4   9  7 2 QPI
DS1  3 12 DY
VA3 12  5 0
DS2 13  3 DY
VA4  4 13 0
GR6  1 99 1 99 5E-8
*^20MEG noiseless resistor
GR7  1 50 1 50 5E-8
*^20MEG noiseless resistor
GB1  1 99 POLY(2) 99 50 56  0 -1.2E-6 4E-8 1E-3
FN1  1  0 V18 1
GB2 99  2 POLY(3) 99 50 1 49 55 0 18.5E-6 -1.5E-7 -1E-7 -1E-6
FN2  2  0 V17 1
EOS  3  1 POLY(5) 99 50 45  0 47 0 57 0 59 61 -2.8E-3 9.3E-5 1 1 1 1
*To run on asymetrical supplies, change to 0.................^.^
CIN1 1  0 2P
CIN2 2  0 3.75P
*
**************SECOND STAGE**************
*
I3  99 50 4.47M
R8  99 49 7.19K
R9  49 50 7.19K
V3  99 16 1.7
D3  15 16 DX
D4  17 15 DX
V4  17 50 2.0
EH  99 98 99 49 1
G1  98 15 POLY(2) 99 8 50 9 0 1.58E-3 1.58E-3
*Fp1 = 27.96 KHz
R5  98 15 2.372MEG
C3  98 15 2.4P
* 
***************POLE STAGE*************** 
*
*Fp=250MHz
G2  98 20 15 49 1E-3
R14 98 20 1K
C4  98 20 .692P
*
***************POLE STAGE*************** 
*
*Fp=250 MHz
G3  98 21 20 49 1E-3
R15 98 21 1K
C5  98 21 .692P
*
***************POLE STAGE*************** 
*
*Fp=275 MHz
G4  98 22 21 49 1E-3
R16 98 22 1K
C6  98 22 .5787P
*
***************POLE STAGE*************** 
*
*Fp=500 MHz
G5  98 23 22 49 1E-3
R17 98 23 1K
C7  98 23 .3183P
*
***************PSRR STAGE***************
*
G10  0 45 99 0 1.413E-4
L3  44 45 26.53U
R25 44  0 10
G11  0 47 50 0 1.413E-4
L4  46 47 2.27364U
R26 46  0 10
*
************THERMAL EFFECTS*************
*
I12  0 55 1
R27  0 55 10  TC=3.453E-3 7.93E-5
I13  0 56 1E-3
R28  0 56 1.5 TC=9.303E-4 8.075E-5
I14  0 57 1E-3
R29  0 57 3.34 TC=3.111E-3
*
************* NOISE SOURCES*************
*
V15 58  0 .1
D9  58 59 DN
R30 59  0 726.4
V16 60  0 .1
D10 60 61 DN
R31 61  0 726.4
V17 62  0 0
R32 62  0 73.6
V18 63  0 0
R33 63  0 1840
*
**************OUTPUT STAGE**************
*
F6  99 50 VA7 1
F5  99 35 VA8 1
D7  36 35 DX
VA7 99 36 0
D8  35 99 DX
E1  99 37 99 23 1
VA8 37 38 0
R35 38 40 50
V5  33 40 5.3V
D5  23 33 DX
V6  40 34 5.3V
D6  34 23 DX
CF1 40  2 2.1P
*
***************MODELS USED**************
*
.MODEL QNI NPN(IS=1E-14 BF=10E4 VAF=62.9 KF=6.7E-14)
.MODEL QPI PNP(IS=1E-14 BF=10E4 VAF=62.9 KF=6.7E-14)
.MODEL QNN NPN(IS=1E-14 BF=10E4 VAF=62.9 KF=4.13E-13)
.MODEL QPN PNP(IS=1E-14 BF=10E4 VAF=62.9 KF=4.13E-13)
.MODEL DX  D(IS=1E-15)
.MODEL DY  D(IS=1E-17)
.MODEL DN  D(KF=1.667E-9 AF=1 XTI=0 EG=.3)
*
.ENDS
*$

