*//////////////////////////////////////////////////////////////////////
* (C) National Semiconductor, Corporation.
* Models developed and under copyright by:
* National Semiconductor, Corporation.
*/////////////////////////////////////////////////////////////////////
* Legal Notice:
* The model may be copied, and distributed without any modifications;
* however, reselling or licensing the material is illegal.
* We reserve the right to make changes to the model without prior notice.
* Pspice Models are provided "AS IS, WITH NO WARRANTY OF ANY KIND"
*////////////////////////////////////////////////////////////////////
* For more information, and our latest models,
* please visit the models section of our website at
*       http://www.national.com/models/
*////////////////////////////////////////////////////////////////////
* LMH6672 SUBCIRCUIT
* REV R - 3-OCT-2001
* THIS PINOUT IS FOR
* AMPLIFIER A ONLY
* PINOUT ORDER  -IN +IN VCC VEE OUT
* PINOUT         2   3   8   4   1
.SUBCKT LMH6672 2 3 8 4 1
R1 7 0 1.8E6
D1 7 34 D1M
D2 18 0 DV2M
E1 34 0 5 0 1.0
R2 7 5 1000
C1 5 12 2.88E-12
D7 23 0 DV2M
G2 0 13 5 0 0.1
I4 0 18 1.068E-4
R3 13 0 10
C2 13 0 70E-12
G4 0 14 13 0 0.1
R4 14 0 10
C3 14 0 25E-12
D10 19 8 D10M
V1 19 20 1.83
I8 0 23 1.068E-4
D15 4 21 D10M
V2 22 21 1.63
I7 28 29 3.2E-6
E3 3 45 23 18 0.55
D8 37 0 DI8M
C4 26 0 2E-12
D11 34 7 D1M
E2 5 22 27 0 1
E4 20 5 27 0 1
I3 0 30 1E-3
D12 30 0 D12M
D9 40 0 DI8M
I9 0 37 1.068E-4
V3 27 30 -0.71465
R6 8 4 50E3
V4 12 0 0
L1 31 1 2E-9
I1 8 4 0.7E-3
Q34 33 28 29 Q34M
Q35 17 35 36 Q35M
Q36 16 2 38 Q35M
Q1 8 32 26 Q1M
R11 33 36 325
R12 33 38 325
Q2 8 14 39 Q2M
Q3 4 39 26 Q3M
Q4 4 14 32 Q4M
R18 15 24 10E3
I10 0 40 1.068E-4
D14 24 42 D14M
R7 31 1 1E3
R9 26 31 1
V6 35 45 4E-3
G3 2 45 40 37 0.0123E-12
R10 16 4 2E3
R13 17 4 2E3
G5 0 7 16 17 0.8E-3
G6 0 7 0 81 -1E-9
G7 0 7 0 48 -8.8E-7
D3 35 8 D3M
I6 35 4 4.1E-6
I11 2 4 4.0E-6
E5 15 0 8 4 1
R16 15 41 10E3
D13 41 25 D13M
D4 2 8 D3M
D5 4 35 D3M
D6 4 2 D3M
V7 8 29 0.8
V10 25 0 3.4
G1 0 48 8 0 1
R17 49 48 1
L2 0 49 1.2E-6
R20 0 49 1200
G8 8 4 41 0 0.5E-3
G9 0 57 4 0 1
G11 8 32 24 0 0.160E-3
G13 39 4 43 0 0.135E-3
V11 42 0 4.4
R19 15 43 10E3
D16 43 44 D16M
V12 44 0 3.3
D17 43 15 D17M
R21 74 57 1
L5 0 74 1.2E-6
R22 0 74 1200
G10 0 7 57 0 8.8E-7
R34 81 82 1
L6 82 0 1.5E-4
R35 82 0 10E3
R23 3 0 1E12
R24 27 0 1E12
G12 0 81 33 0 1
C8 45 0 1E-12
C9 2 0 1E-12
D18 1 8 D3M
D19 4 1 D3M
.MODEL D1M D IS=5.002E-16
.MODEL DV2M D IS=1E-16 KF=1E-14
.MODEL D10M D IS=1E-15
.MODEL DI8M D IS=1E-16 KF=1E-15
.MODEL D12M D IS=7E-9 M=0.333 N=1.67
+ RS=2.95E-01 TT=2.88E-09 VJ=0.75
.MODEL Q34M PNP
.MODEL Q35M PNP BF=40 KF=1.5E-14
.MODEL Q1M NPN BF=750 RC=0.75 RE=0.35
.MODEL Q2M NPN BF=75
.MODEL Q3M PNP BF=750 RC=4 RE=1.35
.MODEL Q4M PNP BF=75
.MODEL D14M D IS=1.0E-14 RS=2700
.MODEL D3M D IS=3E-14 RS=0.5
.MODEL D13M D IS=1.0E-14 RS=1
.MODEL D16M D IS=1.0E-14 RS=1000
.MODEL D17M D BV=3.3 IBV=1E-3 IS=1.0E-14
.ENDS

